US04800201
5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-3-chloro-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one
3-Chloropyridine (0.88 g), 2,2,2-trichloroethylchloroformate (1.33 ml) and 5-methyl-2H-1,4-thiazin-3(4H)-one (0.5 g) were treated in the same manner as described in Example 2 (i) to give the titled compound (0.75 g, yield 46.3%) as milky white crystals. Chloroform-methanol (=30:1) was used as a developing eluant.

reactant | 3-Chloropyridine | 0.88 g | ClC=1C=NC=CC1 | C5H4ClN
reactant | 2,2,2-trichloroethylchloroformate | 1.33 ml | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | 5-methyl-2H-1,4-thiazin-3(4H)-one | 0.5 g | CC=1NC(CSC1)=O | C5H7NOS
product | 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-3-chloro-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one | 0.75 g, yield 46.3% | CC=1NC(CSC1C1C(=CN(C=C1)C(=O)OCC(Cl)(Cl)Cl)Cl)=O | C13H12Cl4N2O3S
